US04775223
A mixture of 25 of 4-methoxybiphenyl-4-carboxylic acid, 1 1 of acetic acid and 200 ml of 48% bromic acid was refluxed for 12-14 hours and then throwninto 2.5 l of water. After cooling, the resultant crystal was collected to obtain 4'-hydroxybiphenylcarboxylic acid.

reactant | 4-methoxybiphenyl-4-carboxylic acid | COC1(CC=C(C=C1)C1=CC=CC=C1)C(=O)O | C14H14O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | bromic acid | 200 ml | Br(=O)(=O)O | BrHO3
solvent | water | 2.5 l | O | H2O
product | 4'-hydroxybiphenylcarboxylic acid | OC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C13H10O3
